US08309725B2
Preparation of 1-[(4aRS,8SR,8aRS)-4-butyl-8-(pyrrolidin-1-yl)perhydroquinoxalin-1-yl]-2-(3,4-dichlorophenyl)-ethan-1-one
Butyraldehyde (93 mg, 1.3 mmol) was dissolved in 5 ml of MeOH and NaBH3CN (82 mg, 1.3 mmol) was added. The pH was adjusted to 5 with concentrated acetic acid. 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (101 mg, 0.25 mmol), dissolved in MeOH (15 ml), was then added to the mixture and the mixture was stirred at room temperature overnight. After addition of saturated Na2CO3 solution (15 ml), the mixture was stirred at room temperature for 15 minutes. The precipitate formed was filtered off. The aqueous phase of the filtrate was extracted three times with CH2Cl2 and the combined organic phases were dried over Na2SO4 and evaporated in vacuo. The residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9.5:0.5:0.1, l=15 cm, V=5 ml). A colorless resin was isolated.

reactant | Butyraldehyde | 1.3 mmol, 93 mg | C(CCC)=O | C4H8O
reactant | NaBH3CN | 1.3 mmol, 82 mg | [BH3-]C#N.[Na+]
reactant | 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.25 mmol, 101 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | Na2CO3 | 15 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 15 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[(4aRS,8SR,8aRS)-4-butyl-8-(pyrrolidin-1-yl)perhydroquinoxalin-1-yl]-2-(3,4-dichlorophenyl)-ethan-1-one | C(CCC)N1CCN(C2C(CCCC12)N1CCCC1)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C24H35Cl2N3O
